US07132436B2
3-Chloro-2-methyl-N-[4-(3-pyridinyl)-1,3-thiazol-2-yl]benzenesulfonamide
The title compound was prepared from 4-(3-pyridyl)-1,3-thiazol-2-amine and 3-chloro-2-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a yellow solid (21.4 mg) with purity >90%. MS (pos) m/z 366.1.

reactant | 4-(3-pyridyl)-1,3-thiazol-2-amine | N1=CC(=CC=C1)C=1N=C(SC1)N | C8H7N3S
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 3-Chloro-2-methyl-N-[4-(3-pyridinyl)-1,3-thiazol-2-yl]benzenesulfonamide | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1SC=C(N1)C=1C=NC=CC1)C | C15H12ClN3O2S2
